US04229352
Following the procedure of Example 2, 3-(4-methylphenoxy)-2,2-dimethylcyclopropanecarboxylic acid is reacted with 3-(3-fluorobenzyl)-pyrrolylmethyl methanesulfonate to yield 3-(3-fluorobenzyl)-pyrrolylmethyl 3-(4-methylphenoxy)-2,2-dimethylcyclopropanecarboxylate.

reactant | 3-(4-methylphenoxy)-2,2-dimethylcyclopropanecarboxylic acid | CC1=CC=C(OC2C(C2C(=O)O)(C)C)C=C1 | C13H16O3
reactant | 3-(3-fluorobenzyl)-pyrrolylmethyl methanesulfonate | CS(=O)(=O)OCC=1NC=CC1CC1=CC(=CC=C1)F | C13H14FNO3S
product | 3-(3-fluorobenzyl)-pyrrolylmethyl 3-(4-methylphenoxy)-2,2-dimethylcyclopropanecarboxylate | CC1=CC=C(OC2C(C2C(=O)OCC=2NC=CC2CC2=CC(=CC=C2)F)(C)C)C=C1 | C25H26FNO3
